US04088695
A solution of 1-chloro-2-oxo-5-phenylpentane (6.55 g.) in dry chloroform (30 ml.) was added to a solution of triphenylphosphine (8.7 g.) in dry chloroform (30 ml.) and heated at reflux in an atmosphere of dry nitrogen for 4 hours. The solution was then evaporated under reduced pressure and the residual oil was triturated with a mixture of light petroleum ether (b.p. 40°-60° C.) and diethyl ether, to give a white solid. Recrystallisation of this material from a mixture of dichloromethane and diethyl ether gave 4-phenylbutanoylmethyltriphenylphosphonium chloride (11.2 g.) in the form of a white crystalline solid. m.p. 192-195° C. (Elemental analysis: C, 76.0; H, 6.2%; C29H28ClOP requires: C, 75.9; H, 6.2%; νmax 1110 cm-1, 1445 cm-1, 1490 cm-1, 1695 cm-1).

reactant | 1-chloro-2-oxo-5-phenylpentane | 6.55 g | ClCC(CCCC1=CC=CC=C1)=O | C11H13ClO
reactant | triphenylphosphine | 8.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-phenylbutanoylmethyltriphenylphosphonium chloride | 11.2 g | [Cl-].C1(=CC=CC=C1)CCCC(=O)C1=C(C=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C | InChI=1S/C29H28OP.ClH/c1-31(25-17-7-3-8-18-25,26-19-9-4-10-20-26)29-23-12-11-21-27(29)28(30)22-13-16-24-14-5-2-6-15-24;/h2-12,14-15,17-21,23H,13,16,22H2,1H3;1H/q+1;/p-1
